US07851626B2
4-(4-{(4S,5R)-4,5-Bis-(4-chloro-phenyl)-2-[4-(cyano-dimethyl-methyl)-2-ethoxy-phenyl]-4,5-dimethyl-4,5-dihydro-imidazole-1-carbonyl}-piperazin-1-yl)-piperidine-1-carboxylic acid isopropylamide
In a manner analogous to the method described in example 5, rac-(4S*,5R*)-4,5-bis-(4-chloro-phenyl)-2-[4-(cyano-dimethyl-methyl)-2-ethoxy-phenyl]-4,5-dimethyl-4,5-dihydro-imidazole-1-carbonyl chloride was reacted with 4-piperazin-1-yl-piperidine-1-carboxylic acid isopropylamide trifluoroacetate to give the title compound as a racemic mixture. The enantiomers were then separated by supercritical fluid chromatography (Berger Instrument Multi-Gram II, Daicel ChiralPak OD-H 3×25 cm, 35° C. at 100 bar, eluting with 30% methanol in carbon dioxide). LR-MS: 786.0 [(M+H)+]

reactant | rac-(4S*,5R*)-4,5-bis-(4-chloro-phenyl)-2-[4-(cyano-dimethyl-methyl)-2-ethoxy-phenyl]-4,5-dimethyl-4,5-dihydro-imidazole-1-carbonyl chloride | ClC1=CC=C(C=C1)C1(N=C(N(C1(C)C1=CC=C(C=C1)Cl)C(=O)Cl)C1=C(C=C(C=C1)C(C)(C)C#N)OCC)C | C30H28Cl3N3O2
reactant | 4-piperazin-1-yl-piperidine-1-carboxylic acid isopropylamide trifluoroacetate | FC(C(=O)O)(F)F.C(C)(C)NC(=O)N1CCC(CC1)N1CCNCC1
product | 4-(4-{(4S,5R)-4,5-Bis-(4-chloro-phenyl)-2-[4-(cyano-dimethyl-methyl)-2-ethoxy-phenyl]-4,5-dimethyl-4,5-dihydro-imidazole-1-carbonyl}-piperazin-1-yl)-piperidine-1-carboxylic acid isopropylamide | C(C)(C)NC(=O)N1CCC(CC1)N1CCN(CC1)C(=O)N1C(=N[C@@]([C@@]1(C)C1=CC=C(C=C1)Cl)(C)C1=CC=C(C=C1)Cl)C1=C(C=C(C=C1)C(C)(C)C#N)OCC | C43H53Cl2N7O3
